US05173493
A mixture of 8,9-dihydro-10-ethyl-7-[(5-methyl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6-(7H)-one (0.84 g), trityl chloride (1.0 g) and triethylamine (515 mg) in N,N-dimethylformamide (10 ml) was stirred at room temperature for 18 hours. The reaction mixture was diluted with chilled water and extracted twice with ethyl acetate. The organic layer was washed with water and brine, dried over anhydrous magnesium sulfate, and evaporated in vacuo. Purification of the residue with silica gel column chromatography (2% methanol-chloroform) gave 8,9-dihydro-10-ethyl-7-[(5-methyl-1-trityl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one (690 mg).

reactant | 8,9-dihydro-10-ethyl-7-[(5-methyl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6-(7H)-one | 0.84 g | C(C)C1=C2N(C3=CC=CC=C13)C(C(CC2)CC=2N=CNC2C)=O | C19H21N3O
reactant | trityl chloride | 1.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | triethylamine | 515 mg | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 8,9-dihydro-10-ethyl-7-[(5-methyl-1-trityl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one | 690 mg | C(C)C1=C2N(C3=CC=CC=C13)C(C(CC2)CC=2N=CN(C2C)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O | C38H35N3O
